### PR TITLE
[Merged by Bors] - feat(Set): lemmas about set difference

### PR DESCRIPTION
**Pull request by apnelson1**
We add some API lemmas about set difference and strict subsets. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by vihdzp** [comment]
Out of curiosity, can any of these be proven by the new `tauto_set` tactic?

File: Mathlib/Data/Set/Disjoint.lean [hunk 1]
```diff
@@ -85,10 +85,6 @@ theorem disjoint_sdiff_inter : Disjoint (s \ t) (s ∩ t) :=
 
 lemma subset_diff : s ⊆ t \ u ↔ s ⊆ t ∧ Disjoint s u := le_iff_subset.symm.trans le_sdiff
 
-theorem disjoint_of_subset_iff_left_eq_empty (h : s ⊆ t) :
-    Disjoint s t ↔ s = ∅ := by
-  simp only [disjoint_iff, inf_eq_left.mpr h, bot_eq_empty]
-
```
Comment (j-loreaux) [inline Mathlib/Data/Set/Disjoint.lean:91]: Why did you move this? It seems to be in the natural file already.

File: Mathlib/Data/Set/Disjoint.lean [hunk 2]
```diff
@@ -111,6 +107,20 @@ alias ⟨_, _root_.HasSubset.Subset.disjoint_compl_left⟩ := disjoint_compl_lef
 
 alias ⟨_, _root_.HasSubset.Subset.disjoint_compl_right⟩ := disjoint_compl_right_iff_subset
 
+theorem diff_union_diff_cancel_of_inter_subset_of_subset_union (hi : s ∩ u ⊆ t)
+    (hu : t ⊆ s ∪ u) : (s \ t) ∪ (t \ u) = s \ u := by
```
Comment (j-loreaux) [inline Mathlib/Data/Set/Disjoint.lean:111]: unless there's another theorem you think should get this name, I would prefer:
```suggestion
theorem diff_union_diff_cancel (hi : s ∩ u ⊆ t) (hu : t ⊆ s ∪ u) :
    (s \ t) ∪ (t \ u) = s \ u := by
```

File: Mathlib/Data/Set/Insert.lean [hunk 3]
```diff
@@ -414,9 +417,8 @@ theorem insert_inter_of_not_mem (h : a ∉ t) : insert a s ∩ t = s ∩ t :=
 theorem diff_singleton_eq_self {a : α} {s : Set α} (h : a ∉ s) : s \ {a} = s :=
   sdiff_eq_self_iff_disjoint.2 <| by simp [h]
 
-@[simp]
-theorem diff_singleton_sSubset {s : Set α} {a : α} : s \ {a} ⊂ s ↔ a ∈ s :=
-  sdiff_le.lt_iff_ne.trans <| sdiff_eq_left.not.trans <| by simp
+theorem diff_singleton_sSubset {s : Set α} {a : α} : s \ {a} ⊂ s ↔ a ∈ s := by
```
Comment (j-loreaux) [inline Mathlib/Data/Set/Insert.lean:420]: This was misnamed. Please also add a deprecation.
```suggestion
theorem diff_singleton_ssubset {s : Set α} {a : α} : s \ {a} ⊂ s ↔ a ∈ s := by
```

**Review by j-loreaux — COMMENTED** [review]
Looks mostly good to me. Thanks!

bors d+

File: Mathlib/Data/Set/Disjoint.lean (hunk 2 above)
Comment (apnelson1) [reply Mathlib/Data/Set/Disjoint.lean:111]: Unfortunately this one is taken. Do you think a primed version is maybe better?

Comment (apnelson1) [reply Mathlib/Data/Set/Disjoint.lean]: I've primed it, and changed the proof so it can sit right next to the unprimed version.

File: Mathlib/Data/Set/Basic.lean [hunk 4]
```diff
@@ -941,6 +957,13 @@ lemma inter_sdiff_left_comm (s t u : Set α) : s ∩ (t \ u) = t ∩ (s \ u) :=
 theorem diff_union_diff_cancel (hts : t ⊆ s) (hut : u ⊆ t) : s \ t ∪ t \ u = s \ u :=
   sdiff_sup_sdiff_cancel hts hut
 
+/-- A version of `diff_union_diff_cancel` with more general hypotheses. -/
+theorem diff_union_diff_cancel' (hi : s ∩ u ⊆ t) (hu : t ⊆ s ∪ u) : (s \ t) ∪ (t \ u) = s \ u := by
```
Comment (urkud) [inline Mathlib/Data/Set/Basic.lean:961]: Could you please generalize `sdiff_sup_sdiff_cancel` too?

**Comment by apnelson1** [comment]
> bors r+

bors r-

File: Mathlib/Data/Set/Basic.lean (hunk 4 above)
Comment (apnelson1) [reply Mathlib/Data/Set/Basic.lean]: Done!
